US05364866
A mixture of 1-(4-thio-3-methoxyphenyl)ethanone (10.0 g, 0.0549 mol), potassium carbonate (9.0 g, 0.0651 mol), and acetone (100 ml) was stirred at reflux under nitrogen for 30 minutes. The reaction was cooled to ambient temperature and a solution of 1-bromo-3-chloropropane (6.5 ml, 9.5 g, 0.0604 mol) dissolved in acetone (25 ml) was dripped into the reaction. After complete addition, the reaction was heated to reflux and stirred under nitrogen for 17 hours. After the reaction was carried to substantial completion, the reaction mixture was filtered and the resulting filter cake was washed with acetone. The filtrate was concentrated to provide an amber oil. A small sample was solidified by trituration with hot cyclohexane to provide 1-[4-[(3-chloropropyl)thio]-3-methoxyphenyl]ethanone as a yellow solid, 11.7 g, m.p. 53°-55° C.

reactant | 1-(4-thio-3-methoxyphenyl)ethanone | 0.0549 mol, 10.0 g | CC(=O)C1=CCC(=S)C(=C1)OC | C9H10O2S
reactant | potassium carbonate | 0.0651 mol, 9.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 0.0604 mol, 6.5 ml, 9.5 g | BrCCCCl | C3H6BrCl
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-[4-[(3-chloropropyl)thio]-3-methoxyphenyl]ethanone | ClCCCSC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO2S
